US06359134B1
To a mixture of 1-tert-butoxycarbonylpiperazine (1.25 g), sodium hydrogen carbonate solution (10 ml) and ethyl acetate (10 ml), was added 6-bromonaphthalene-2-sulfonylchloride (2.05 g), and the mixture was stirred at room temperature for 1 hour and extracted with dichloromethane. The extract was washed with water, dried and concentrated. The residue was crystallized with diisopropylether to give 1-(tert-butoxycarbonyl)-4-(6-bromonaphthalene-2-sulfonyl)piperazine as colorless crystals (2.83 g).

reactant | 1-tert-butoxycarbonylpiperazine | 1.25 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
reactant | 6-bromonaphthalene-2-sulfonylchloride | 2.05 g | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6BrClO2S
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-(tert-butoxycarbonyl)-4-(6-bromonaphthalene-2-sulfonyl)piperazine | 2.83 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Br | C19H23BrN2O4S
